US07932284B2
Dissolve 2-Fluoro-4-bromobenzonitrile (200 g, 990 mmol, 1.00 eq.) and triisopropyl borate (228 g, 1188 mmol, 1.2 eq.) in 700 mL of THF and 1400 mL of toluene. Cool the mixture with a dry ice/acetone bath to an internal temperature of −75° C. Slowly add n-BuLi (396 mL of a 2.5 M solution in hexanes) over a period of 2 hours. After addition is complete, a light-red, thin slurry occurs. Let the solution stir at −74° C. for 15 minutes, allow the solution to warm to −20° C. and then quench with 1500 mL of 2.5 M HCl. Let the solution warm to RT. Separate layers, extract the aqueous layer with EtOAc, dry the combined organic phases with Na2SO4, filter and concentrate in vacuo to yield a light-brown solid. Triturate the solid with hexane and transfer to a scintered glass funnel. Rinse with hexane one more time to obtain a pale-yellow filtrate. Stir the light-brown solid with cold CH2Cl2 and filter. Rinse with a small volume of CH2Cl2 to yield an off-white solid and a brown filtrate. Dry the solid in a vacuum oven at 40° C. and dried to yield 112 g (679 mmol, 69%) of 3-fluoro-4-cyanophenylboronic acid as an off-white solid.

reactant | 2-Fluoro-4-bromobenzonitrile | 990 mmol, 200 g, 1.00 eq. | FC1=C(C#N)C=CC(=C1)Br | C7H3BrFN
reactant | triisopropyl borate | 1188 mmol, 228 g, 1.2 eq. | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | [Li]CCCC
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | toluene | 1400 mL | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-cyanophenylboronic acid | 679 mmol, 112 g, 69% | FC=1C=C(C=CC1C#N)B(O)O | C7H5BFNO2
